US03954801
In a suitable reaction vessel is mixed 6,090 grams of methylene bromide, 1,955 grams of sodium bicarbonate and 13.2 liters of dimethylformamide. The mixture is cooled to 12°C. and maintained between 12°C. and 20°C. while adding powdered ammonium p-tolyldithiocarbamate in small portions over about a 2-hour period. After stirring for an additional 4 hours at room temperature, the mixture is poured into a separatory funnel and diluted with an equal volume of water. The lower oily phase is separated and the upper aqueous DMF phase is extracted three times with 3.5 liter portions of ethylene chloride. The combined organic phase is washed with water and filtered. In a suitable vessel, the washed ethylene chloride mixture is diluted with an additional 36 liters of ethylene chloride, cooled to 10°C. to 15°C., and well stirred while adding 3,690 ml. of 37% aqueous solution of hydrochloric acid. After the mixture comes to room temperature, the solids are collected by filtration and washed with ethylene chloride and then methyl ethyl ketone. The air-dried hydrochloride salt of 2-p-tolylimino-1,3-dithietane, amounting to 3,432 grams, is finely pulverized and mixed with 14.5 liters of water. The mixture is cooled and about 2800 ml. of ammonium hydroxide is added over about 30 minutes to give a final acidity of pH 8. The solids are collected by filtration, washed with water, and air-dried to give 2,566 grams of 2-p-tolylimino-1,3-dithietane, melting point 54.5°C. to 55.0°C. The infrared spectrum shows C=N absorption at 1640 cm.-1.

reactant | methylene bromide | 6,090 grams | C(Br)Br | CH2Br2
reactant | sodium bicarbonate | 1,955 grams | C([O-])(O)=O.[Na+]
reactant | dimethylformamide | 13.2 liters | CN(C=O)C | C3H7NO
reactant | ammonium p-tolyldithiocarbamate | C1(=CC=C(C=C1)NC([S-])=S)C.[NH4+]
solvent | water | O | H2O
product | 2-p-tolylimino-1,3-dithietane | 2,566 grams | C1(=CC=C(C=C1)N=C1SCS1)C | C9H9NS2
